US08378095B2
To a solution of 4-(4-methoxyphenyl)-2-(pyridin-4-yl)-1H-imidazole-5-carboxylic acid (0.090 g, 0.3 mmol) and hydroxybenzotriazole monohydrate (0.047 g, 0.3 mmol) in DMF (2.5 ml) was added 0.5M ammonia in dioxane (2 ml, 1.0 mmol) and the resulting solution stirred at room temperature for 10 minutes. 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide (0.064 g, 0.33 mmol) was added and the reaction mixture stirred at room temperature overnight. The solvent was removed in vacuo and the residue purified by preparative HPLC to afford 4-(4-methoxyphenyl)-2-(pyridin-4-yl)-1H-imidazole-5-carboxamide (0.025 g, 0.08 mmol, 67%). 1H NMR (DMSO) 3.83 (3H, s), 7.03 (2H, d), 7.20 (1H, br. s), 7.50 (1H, br. s), 7.84 (2H, d), 8.03 (2H, dd), 8.68 (2H, dd), 13.12 (1H, br. s). LCMS (2) Rt 1.68 min; m/z (ES+) 295.

reactant | 4-(4-methoxyphenyl)-2-(pyridin-4-yl)-1H-imidazole-5-carboxylic acid | 0.3 mmol, 0.090 g | COC1=CC=C(C=C1)C=1N=C(NC1C(=O)O)C1=CC=NC=C1 | C16H13N3O3
reactant | hydroxybenzotriazole monohydrate | 0.3 mmol, 0.047 g | O.OC1=CC=CC=2NN=NC21
reactant | ammonia | 0.5M | N | H3N
reactant | dioxane | 1.0 mmol, 2 ml | O1CCOCC1 | C4H8O2
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide | 0.33 mmol, 0.064 g | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 4-(4-methoxyphenyl)-2-(pyridin-4-yl)-1H-imidazole-5-carboxamide | 0.08 mmol, 0.025 g, 67% | COC1=CC=C(C=C1)C=1N=C(NC1C(=O)N)C1=CC=NC=C1 | C16H14N4O2
